US08048897B2
(4) Synthesis of 2-(4-Cyclopentylbenzyl)phenol
To a solution of 1-[4-(2-benzyloxybenzyl)phenyl]-cyclopentanol (1.14 g, 3.19 mmol) in methanol (21 mL), a 20% palladium hydroxide catalyst (114 mg) was added, and furthermore 36% HCl (0.255 mL) was added thereto. The mixture was stirred under a hydrogen atmosphere overnight, and then cooled to 0° C., potassium carbonate (425 mg) was added thereto and the mixture was stirred for 20 minutes, and then the catalyst was filtered off. The solvent was distilled under reduced pressure and the obtained residue was purified by silica gel column chromatography [developing solution=ethyl acetate:n-hexane (1:20)] to obtain the title compound (744 mg, 92%) as a white solid.

reactant | 1-[4-(2-benzyloxybenzyl)phenyl]-cyclopentanol | 3.19 mmol, 1.14 g | C(C1=CC=CC=C1)OC1=C(CC2=CC=C(C=C2)C2(CCCC2)O)C=CC=C1 | C25H26O2
reactant | HCl | 0.255 mL | Cl | ClH
reactant | potassium carbonate | 425 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 21 mL | CO | CH4O
catalyst | palladium hydroxide | 114 mg | [OH-].[Pd+2].[OH-]
product | 2-(4-Cyclopentylbenzyl)phenol | 744 mg, 92% | C1(CCCC1)C1=CC=C(CC2=C(C=CC=C2)O)C=C1 | C18H20O
